US06492403B1
c) 5-(2-bromoacetyl)-2-methoxyphenyl acetate
Using the procedure in Example 85, step (b), the entire sample of 3-(chlorocarbonyl)-6-methoxyphenyl acetate (as prepared in the previous step) in 5 mL of anhyd CH2Cl2 was treated with 2.09 mL (4.18 mmol) of a 2 M solution of trimethylsilyldiazomethane in hexane and 456 μL (2.28 mmol) of 30 wt % HBr in acetic acid. Chromatography as in Example 85, step (b) followed by recrystallization from CH2Cl2-hexane afforded the title compound as a faintly yellow solid (366 mg, 67%). 1H-NMR (300 MHz, CDCl3) δ7.79 (dd, 1H, J=8.6, 2.2 Hz), 7.70 (d, 1H, 2.2 Hz), 7.03 (d, 1H, 8.6 Hz), 4.38 (s, 2H), 3.92 (s, 3H), and 2.34 (s, 3H).

reactant | 3-(chlorocarbonyl)-6-methoxyphenyl acetate | C(C)(=O)OC1=CC(=CC=C1OC)C(=O)Cl | C10H9ClO4
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | Br | BrH
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(2-bromoacetyl)-2-methoxyphenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)C(CBr)=O)OC | C11H11BrO4
